US09370522B2
The product was obtained via a Suzuki coupling reaction using the method previously shown in Example 20, Step 3, using methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (100 mg, 0.29 mmol, 1.00 equiv) and o-tolylboronic acid (78.9 mg, 0.58 mmol, 2.00 equiv) as reactants. Purification via silica gel column (dichloromethane/methanol (10:1)) afforded 85 mg (84%) of 2-phenyl-3-o-tolylquinoxaline-6-carboxylic acid as a white solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.29 mmol, 100 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | o-tolylboronic acid | 0.58 mmol, 78.9 mg, 2.00 equiv | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
product | 2-phenyl-3-o-tolylquinoxaline-6-carboxylic acid | 85 mg, 84% | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1C1=C(C=CC=C1)C)C(=O)O | C22H16N2O2
